US06124314
4-Methanesulfonylamino-butyramide.
A solution of 4-methanesulfonylamino-butyric acid ethyl ester (7.08 g, 33.8 mmol) in concentrated NH4OH (200 mL) was stirred at room temperature for 66 h. The reaction mixture was concentrated to afford the title compound of Step B as a white solid (6.16 g). The product was used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 3.30 (s, 3H), 3.05-3.09 (m, 2H), 2.91 (s, 3H), 2.24-2.30 (m, 2H), 1.80-1.85 (m, 2H); MS 181 (M+ +1).

reactant | 4-methanesulfonylamino-butyric acid ethyl ester | 33.8 mmol, 7.08 g | C(C)OC(CCCNS(=O)(=O)C)=O | C7H15NO4S
reactant | NH4OH | 200 mL | [NH4+].[OH-]
product | 4-Methanesulfonylamino-butyramide | 6.16 g | CS(=O)(=O)NCCCC(=O)N | C5H12N2O3S
